US08110585B2
trans-N-{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}butanamide
To a solution of trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine (100 mg, 0.497 mmol) and triethylamine (83.2 μL, 0.596 mmol) in tetrahydrofuran (5 mL) was added butanoic anhydride (89.4 μL, 0.547 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 5 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) to give the title compound (97.4 mg, yield 72%).

reactant | trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine | 0.497 mmol, 100 mg | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CN)=C1 | C12H15N3
reactant | triethylamine | 0.596 mmol, 83.2 μL | C(C)N(CC)CC | C6H15N
reactant | butanoic anhydride | 0.547 mmol, 89.4 μL | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | trans-N-{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}butanamide | 97.4 mg, yield 72% | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CNC(CCC)=O)=C1 | C16H21N3O
